US04381221
A 300-ml autoclave equipped with an agitator was charged with 59.2 g of methyl acetate, 104 g of p-cresol, 1.8 g of palladium chloride, 31.5 g of methyl iodide and 5.8 g of triphenylphosphine, and the reaction was carried out at 195° C. and a carbon monoxide pressure of 28 kg/cm2 gauge (total pressure of 38 kg/cm2 gauge). The yields of acetic acid and phenyl acetate were 95.8% and 95.6%, respectively. The reaction was repeated several times, and the resulting reaction product liquids were collected and used in Example 13.

reactant | methyl acetate | 59.2 g | C(C)(=O)OC | C3H6O2
reactant | p-cresol | 104 g | C1=CC(=CC=C1O)C | C7H8O
reactant | methyl iodide | 31.5 g | CI | CH3I
reactant | triphenylphosphine | 5.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium chloride | 1.8 g | [Pd](Cl)Cl
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
